US03941806
A mixture of 6.0 g. (0.0258 mole) of 1,2-dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole in 60 ml. of ethanol, 30 ml. of water and 30 ml. of conc. sulfuric acid was refluxed for one hour. The hot solution was poured into a cold concentrated sodium hydroxide solution and the basic solution was extracted several times with ether. The combined ether extracts were washed with water, dried over sodium sulfate and concentrated at reduced pressure. The residual oil solidified and was recrystallized from petroleum ether to give 7-(α-acetylbenzyl) indoline which melted at 55°-56°C.

reactant | 1,2-dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole | 0.0258 mole | CC1=C(C=2C=CC=C3CCN1C23)C2=CC=CC=C2 | C17H15N
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 7-(α-acetylbenzyl) indoline | C(C)(=O)C(C1=CC=CC=C1)C=1C=CC=C2CCNC12 | C17H17NO
